US04728653
4-Nitro-3-trifluoromethylaniline
A solution of ammonia in water (100 cm3, s.g. 0.88) was added to 3-trifluoromethyl-4-nitrofluorobenzene (5 g) and the mixture was heated in a bomb at 150° for 2 hours. Solvent was removed in vacuo to yield a yellow solid. Recrystallisation of this solid from hexane/ethyl acetate afforded yellow crystals of 4-nitro-3-trifluoromethylaniline, m.p. 134°, (3.5 g).

reactant | ammonia | N | H3N
reactant | 3-trifluoromethyl-4-nitrofluorobenzene | 5 g | FC(C=1C=C(C=CC1[N+](=O)[O-])F)(F)F | C7H3F4NO2
solvent | water | 100 cm3 | O | H2O
product | 4-Nitro-3-trifluoromethylaniline | [N+](=O)([O-])C1=C(C=C(N)C=C1)C(F)(F)F | C7H5F3N2O2
